US04044141
Analogously to Example 1 heating a solution of 75 mmols of 2'-nitrobenzylideneacetoacetic acid methyl ester and 75 ml of β-aminocrotonic acid 3,4,5-trimethoxybenzyl ester in 120 ml of ethanol gave 2,6-dimethyl-3-methoxycarbonyl-4-(2'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3,4,5-trimethoxybenzyl ester of melting point 125° C (from ethanol).

reactant | β-aminocrotonic acid 3,4,5-trimethoxybenzyl ester | 75 ml | COC=1C=C(COC(\C=C(\C)/N)=O)C=C(C1OC)OC | C14H19NO5
reactant | 2,6-dimethyl-3-methoxycarbonyl-4-(2'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3,4,5-trimethoxybenzyl ester | COC=1C=C(COC(=O)C=2C(C(=C(NC2C)C)C(=O)OC)C2=C(C=CC=C2)[N+](=O)[O-])C=C(C1OC)OC | C26H28N2O9
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2'-nitrobenzylideneacetoacetic acid methyl ester | 75 mmols, Yield: 78% | COC(=O)CC(=O)/C=C/C1=CC=CC=C1[N+](=O)[O-] | C12H11NO5
